US04978663
A solution of N-[1-[1,6-dihydro-6-oxo-1-(phenylmethyl)-3-pyridinyl]-cyclohexyl]formamide hydrochloride (13.4 g) in 200 ml of methanol was heated at reflux for 17 hours. The mixture was cooled, and the resultant crystals were collected, affording 5.6 g of analytically pure 5-(1-aminocyclohexyl)-1-(phenylmethyl)-2(1H)-pyridinone hydrochloride, m.p. 248°-250° C. (dec).

reactant | N-[1-[1,6-dihydro-6-oxo-1-(phenylmethyl)-3-pyridinyl]-cyclohexyl]formamide hydrochloride | 13.4 g | Cl.O=C1C=CC(=CN1CC1=CC=CC=C1)C1(CCCCC1)NC=O
solvent | methanol | 200 ml | CO | CH4O
product | 5-(1-aminocyclohexyl)-1-(phenylmethyl)-2(1H)-pyridinone hydrochloride | Cl.NC1(CCCCC1)C=1C=CC(N(C1)CC1=CC=CC=C1)=O | InChI=1S/C18H22N2O.ClH/c19-18(11-5-2-6-12-18)16-9-10-17(21)20(14-16)13-15-7-3-1-4-8-15;/h1,3-4,7-10,14H,2,5-6,11-13,19H2;1H
